US04579848
A 5.3 g portion of 2-(3-diethoxymethylphenyl)- 4(3H)-pyrimidinone and 30 ml of phosphorous oxychloride was heated on a steam bath overnight. The excess phosphorous oxychloride was removed under vacuum and the residue taken up in chloroform and passed through a hydrous magnesium silicate pad. Evaporation of the filtrate left 3.1 g of residue which had two spots by TLC (chloroform-silica gel). Trituration of the residue with ether gave 0.4 g of 3-(4-chloro-2-pyrimidinyl)benzaldehyde, mp 136°-138° C. (the slower moving spot) which was identified by analysis, PMR and IR.

reactant | 2-(3-diethoxymethylphenyl)- 4(3H)-pyrimidinone | C(C)OC(C=1C=C(C=CC1)C1=NC=CC(N1)=O)OCC | C15H18N2O3
reactant | phosphorous oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-(4-chloro-2-pyrimidinyl)benzaldehyde | 0.4 g | ClC1=NC(=NC=C1)C=1C=C(C=O)C=CC1 | C11H7ClN2O
